US07459448B2
3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzonitrile (I-90)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and N-(3-cyano-phenyl)-guanidine nitrate were converted to I-90 (58%): MS (AA) Rt═1.79 min, m/z═362 (M+H).

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | N-(3-cyano-phenyl)-guanidine nitrate | [N+](=O)(O)[O-].C(#N)C=1C=C(C=CC1)NC(=N)N
product | 3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzonitrile | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC=3C=C(C#N)C=CC3)=O)C1 | C19H12ClN5O
